US09422244B2
1.82 g (1 mol equiv.) 5-Thiophen-3-yl-4,5-dihydro-1H-pyrazole (synthesized as described in WO 2008/034863) and 1.36 mL (1.3 mol equiv.) ethyl isothiocyanate were added to 15 mL ethanol. The reaction mixture was refluxed for 5 hours, and subsequently concentrated on silica gel under reduced pressure. Purification by flash chromatography on silica gel (Et2O:PA=1:1) afforded 0.70 g (26%) 5-thiophen-3-yl-4,5-dihydro-pyrazole-1-carbothioic acid ethylamide. 1H NMR (400 MHz, CDCl3) δ 1.24 (t, J=7.2 Hz, 3H), 2.86 (ddd, J=18.5, 3.3, 1.7 Hz, 1H), 3.39 (ddd, J=18.5, 11.4, 1.7 Hz, 1H), 3.56-3.77 (m, 2H), 6.01 (dd, J=11.4, 3.3 Hz, 1H), 6.93 (dd, J=5.0, 1.0 Hz, 1H), 7.02 (t, J=1.7 Hz, 1H), 7.13 (m, 1H), 7.26 (m, 1H).

reactant | 5-Thiophen-3-yl-4,5-dihydro-1H-pyrazole | 1 mol, 1.82 g | S1C=C(C=C1)C1CC=NN1 | C7H8N2S
reactant | ethyl isothiocyanate | 1.3 mol, 1.36 mL | C(C)N=C=S | C3H5NS
solvent | ethanol | 15 mL | C(C)O | C2H6O
product | 5-thiophen-3-yl-4,5-dihydro-pyrazole-1-carbothioic acid ethylamide | 0.70 g, 26% | C(C)NC(=S)N1N=CCC1C1=CSC=C1 | C10H13N3S2
